US04748240
3-[4-[4-(6-Chloro-2-pyrazinyl)-1-piperazinyl]butyl]-8,8-dimethyl-3-azabicyclo[3.2.1]octane-2,4-dione
2,2-Dimethylcyclopentane-1,3-dicarboxylic anhydride (1.68 g., 10 mmole) and 1-(4-aminobutyl)-4-(6-chloro-2-pyrazinyl)piperazine (2.97 g., 11 mmole) were combined in 500 ml. of xylene and refluxed for 48 hours with Dean-Stark water removal. Concentration in vacuum, column chromatography on 100 g. of silica gel with chloroform, and recrystallization from 50 ml. of isopropanol with addition of 4N isopropanolic HCl gave 0.55 g. of the title compound as the monohydrochloride; m.p. 210° C. (d).

reactant | 2,2-Dimethylcyclopentane-1,3-dicarboxylic anhydride | 10 mmole, 1.68 g | CC1(C2CCC1C(=O)OC2=O)C | C9H12O3
reactant | 1-(4-aminobutyl)-4-(6-chloro-2-pyrazinyl)piperazine | 11 mmole, 2.97 g | NCCCCN1CCN(CC1)C1=NC(=CN=C1)Cl | C12H20ClN5
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 3-[4-[4-(6-Chloro-2-pyrazinyl)-1-piperazinyl]butyl]-8,8-dimethyl-3-azabicyclo[3.2.1]octane-2,4-dione | ClC1=CN=CC(=N1)N1CCN(CC1)CCCCN1C(C2CCC(C1=O)C2(C)C)=O | C21H30ClN5O2
